US07405034B2
A solution of 1.009 g (4.0 mmol) of methyl 4-azido-2,3,5,6-tetrafluorobenzoate in 4 mL (10 mmol) of 10% NaOH, and 20 mL of methanol was stirred at room temperature for 12 hours. This solution was carefully acidified in an ice bath with approximately 10 mL of 1.2 M HCl to a pH<2. The acidified solution was extracted with chloroform (3×10 mL), dried over anhydrous sodium sulfate, and evaporated to afford 4-azidotetrafluorobenzoic acid (0.9181 g, 96%) as white flakes, mp 141.6-142.8° C.

reactant | methyl 4-azido-2,3,5,6-tetrafluorobenzoate | 4.0 mmol, 1.009 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C8H3F4N3O2
reactant | NaOH | 10 mmol, 4 mL | [OH-].[Na+]
reactant | HCl | 1.2 M, approximately 10 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 4-azidotetrafluorobenzoic acid | 0.9181 g, 96% | N(=[N+]=[N-])C1=C(C(=C(C(=O)O)C(=C1F)F)F)F | C7HF4N3O2
